US05387397
A mixture of sodium phenolate trihydrate (10.2 g; 60 mmole) and benzyl chloride (6.4 ml; 56 mmole) in methanol (150 ml) was pumped through the system (15 ml/minute; 146°-7° C.; 1000-1050 kPa). The MeOH was rotary evaporated off and the residue recrystallised from EtOH to afford colourless needles of phenyl benzyl ether (6.9 g; 67% yield), m.p. 36°-36.3° C.

reactant | sodium phenolate trihydrate | 60 mmole, 10.2 g | O.O.O.C1(=CC=CC=C1)[O-].[Na+]
reactant | benzyl chloride | 56 mmole, 6.4 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | methanol | 150 ml | CO | CH4O
product | phenyl benzyl ether | 6.9 g, 67% yield | C(C1=CC=CC=C1)OC1=CC=CC=C1 | C13H12O
